US09447006B2
(+)-γ-tocopherol (Ex-1F-1) (300 mg, 0.72 mmol), K2CO3 (199 mg, 1.44 mmol), 3-chloro-2-methyl propene (450 μL, 5.17 mmol), NaI (˜10 mg) and acetone (8 mL) were charged to a 50 mL RBF. The reaction was heated to reflux for 20 h after which time it was deemed complete by TLC (1:9 EtOAc:Hept). The reaction was diluted with water (15 mL) and DCM (10 mL). The aqueous layer was separated and washed with DCM (3×10 mL). The combined DCM layers were dried over Na2SO4, filtered and concentrated by rotary evaporation to yield (R,R,R)-2,7,8-trimethyl-6-(2-methyl-allyloxy)-2-(4,8,12-trimethyl-tridecyl)-chroman as a pale yellow liquid (Ex-1F-2) (324 mg, 95%). The isolated product was used without any further purification.

reactant | (+)-γ-tocopherol | 0.72 mmol, 300 mg | CC1=C(C=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)O | C28H48O2
reactant | K2CO3 | 1.44 mmol, 199 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-2-methyl propene | 5.17 mmol, 450 μL | ClCC(=C)C | C4H7Cl
reactant | NaI | ˜10 mg | [Na+].[I-]
solvent | water | 15 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | (R,R,R)-2,7,8-trimethyl-6-(2-methyl-allyloxy)-2-(4,8,12-trimethyl-tridecyl)-chroman | C[C@@]1(OC2=C(C(=C(C=C2CC1)OCC(=C)C)C)C)CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C32H54O2
